US07432281B2
4-(3,3-Dimethylbut-1-ynyl)benzoic acid
The 4-iodobenzoic acid methyl ester (500 mg; 1.9 mmol) was suspended in 1,4-dioxane (3 ml) in a 5 ml reaction vial. To the vessel was added dichlorobis(triphenylphosphine)palladium(II) (44 mg; 3 mol %), copper iodide (7.5 mg), N,N-diisopropylethylamine (0.39 ml; 3.5 mmol) and 3,3-dimethylbut-1-yne (0.275 ml; 3.5 mmol). The vessel was sealed and the mixture was heated at 80° C. for 24 hrs. The solvents were evaporated to dryness and 20 ml of tetrahydrofuran and 20 ml of 10N NaOH was added. The mixture was stirred at room temperature for 30 minutes and the solvent was evaporated. The basic layer was acidified with concentrated HCl and extracted three times with EtOAc. The organic layers were washed with brine and dried over Na2SO4, filtered and evaporated to give the desired product as a brown powder (210 mg; 28%).

reactant | 4-iodobenzoic acid methyl ester | 1.9 mmol, 500 mg | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | N,N-diisopropylethylamine | 3.5 mmol, 0.39 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,3-dimethylbut-1-yne | 3.5 mmol, 0.275 ml | CC(C#C)(C)C | C6H10
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 44 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 7.5 mg | [Cu](I)I
product | 4-(3,3-Dimethylbut-1-ynyl)benzoic acid | 210 mg, 28% | CC(C#CC1=CC=C(C(=O)O)C=C1)(C)C | C13H14O2
